US07279481B2
N-[3-(3-Oxo-propyl)-phenyl]-methanesulfonamide
A mixture of N-(3-iodo-phenyl)-methanesulfonamide (2.4 g, 8 mmol), tetra-n-butyl-ammonium chloride (2.22 g, 8 mmol), allyl alcohol (0.7 g, 12 mmol), sodium hydrogencarbonate (1.6 g, 19 mmol) and palladium(II)chloride (0.36 g, 1.8 mmol) in anhydrous dimethylformamide (30 mL) was stirred at room temperature for 48 h under argon. The mixture was then diluted with 5% aqueous hydrochloric acid (100 mL) and extracted with ethyl acetate (2×100 mL). The combined organic layers were dried (sodium sulfate) and evaporated in vacuo. The crude product was purified by silica gel chromatography (ethyl acetate in hexane, 30% to 50%) to give the title compound as an amber oil (1.1 g, 60%).

reactant | N-(3-iodo-phenyl)-methanesulfonamide | 8 mmol, 2.4 g | IC=1C=C(C=CC1)NS(=O)(=O)C | C7H8INO2S
reactant | allyl alcohol | 12 mmol, 0.7 g | C(C=C)O | C3H6O
reactant | sodium hydrogencarbonate | 19 mmol, 1.6 g | C(O)([O-])=O.[Na+]
catalyst | tetra-n-butyl-ammonium chloride | 8 mmol, 2.22 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 100 mL | Cl | ClH
catalyst | palladium(II)chloride | 1.8 mmol, 0.36 g | [Pd](Cl)Cl
product | N-[3-(3-Oxo-propyl)-phenyl]-methanesulfonamide | 1.1 g, 60% | O=CCCC=1C=C(C=CC1)NS(=O)(=O)C | C10H13NO3S
